US05496805
This salt is converted to the free acid. Dicyclohexylcarbodiimide in tetrahydrofuran is added to a solution of (S)-2-acetylthio-3-phenylpropionic acid, (L)-leucine, 1,1-dimethylethyl ester, and hydroxybenzotriazole hydrate in tetrahydrofuran at -8° and the reaction mixture is stirred overnight warming to room temperature, and is then worked up according to the procedure of Example 37 to yield (S)-N-[2-(acetylthio)-1-oxo-3-phenylpropyl]-L-leucine, 1,1-dimethylethyl ester as a clear, light yellow, viscous oil.

reactant | Dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (S)-2-acetylthio-3-phenylpropionic acid | C(C)(=O)S[C@H](C(=O)O)CC1=CC=CC=C1 | C11H12O3S
reactant | (L)-leucine, 1,1-dimethylethyl ester | N[C@@H](CC(C)C)C(=O)OC(C)(C)C | C10H21NO2
reactant | hydroxybenzotriazole hydrate | O.OC1=CC=CC=2NN=NC21
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (S)-N-[2-(acetylthio)-1-oxo-3-phenylpropyl]-L-leucine, 1,1-dimethylethyl ester | C(C)(=O)SC(C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C21H31NO4S
